US05015666
To the Grignard reagent prepared from 4-bromoanisole (10 g, 53.5 mmol) and Mg turnings (1.32 g, 54.3 mg-atom) in 25 mL Et2O was added deoxybenzoin (9.81 g, 50 mmol) in 75 mL Et2O dropwise under reflux. After stirring at reflux 3 h, the mixture was carefully poured onto 1N H2SO4 and ice. The layers were allowed to separate and the aqueous layer was extracted with 25 mL Et2O. The ether layers were combined, washed with H2O (2×80 mL), dried (Na2SO4), and concentrated to give a yellow oil which solidified at room temperature (14.2 g, 93.3% crude yield). Recrystallization from 95% EtOH gave 1,2-diphenyl-1-(4-methoxyphenyl)ethanol as a white powder mp: 111°-112° C. (lit. 112°-113° C.); NMR δ 7.2 (m, 14H, ArH), 3.75 (s, 3H, OCH3), 3.63 (s, 2H, CH2), 2.35 (brs, 1H, OH). The tertiary carbinol (14 g, 46 mmol) and p-TsOH.H2O (1 g, 5.31 mmol) were dissolved in 40 mL dry C6H6, heated to reflux, and stirred 2 h. The red mixture was cooled to room temperature and washed with 5% NaHCO3 (2×75 mL). The combined aqueous layers were extracted with 25 mL C6H6. The organic layers were combined, washed with 100 mL H2O, dried (Na2SO4), and concentrated to give a yellow oil. The (E)- and (Z)-olefin mixture was purified on 60 g flash SiO2 (petroleum ether) and 1,2-Diphenyl-1-(4-methoxyphenyl)ethene was obtained as a clear oil (8 g, 61%); NMR δ 7.15 (m, 10H, ArH), 6.9 (s, 1H, C=CH), 6.8 (AA'BB', c, 4H, MeOC6H 4), 3.71 (d, 3H, (E)- & (Z)-OCH3).

reactant | 4-bromoanisole | 53.5 mmol, 10 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | deoxybenzoin | 50 mmol, 9.81 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | H2SO4 | 1N | OS(=O)(=O)O | H2O4S
solvent | Et2O | 25 mL | CCOCC | C4H10O
solvent | Et2O | 75 mL | CCOCC | C4H10O
product | 1,2-diphenyl-1-(4-methoxyphenyl)ethanol | C1(=CC=CC=C1)C(CC1=CC=CC=C1)(O)C1=CC=C(C=C1)OC | C21H20O2
